US05889002
6-Chloro-3-methylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and methyl isothiocyanate by a procedure analogous to the procedure described in example 3Bc-d; mp >190° C. decomp.; 1H-NMR (DMSO-d6): δ 2.75 (s, 3H), 7.02 (s, 1H), 7.25 (br, 1H), 11.3 (br s, 1H).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
product | 6-Chloro-3-methylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NC | C6H6ClN3O2S2
